US07253174B2
Synthesis of 4-[(2,2-Dimethyl-propyl)-methyl-amino]-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamino]-2-(pyrrolidin-3(R)-ylamino)-pyrimidine-5-carbonitrile
A solution of 4-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamino]-pyrimidine-5-carbonitrile (10 mg, 0.022 mmol) and 1-tert-butoxycarbony-3(R)-amino-pyrrolidine (0.08 g, 0.4 mmol) in 2 mL of acetonitrile was heated with stirring at 80° C. for 18 h. Volatiles were the removed in vacuo and the product was purified by flash chromatography.

reactant | 4-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamino]-pyrimidine-5-carbonitrile | 0.022 mmol, 10 mg | CC(CN(C1=NC(=NC(=C1C#N)NC1=C(C=CC(=C1)C1=NN=CN1)C)S(=O)(=O)C)C)(C)C | C21H26N8O2S
reactant | 1-tert-butoxycarbony-3(R)-amino-pyrrolidine | 0.4 mmol, 0.08 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N | C9H18N2O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-[(2,2-Dimethyl-propyl)-methyl-amino]-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamino]-2-(pyrrolidin-3(R)-ylamino)-pyrimidine-5-carbonitrile | CC(CN(C1=NC(=NC(=C1C#N)NC1=C(C=CC(=C1)C1=NN=CN1)C)N[C@H]1CNCC1)C)(C)C | C24H32N10
